* OrCAD Model Editor - Version 9.1
*$
.SUBCKT FDC365P 2 1 3   
*Nom Temp=25 deg C
Dbody 5 7 DbodyMOD
Dbreak 7 11 DbreakMOD
Ebreak 5 11 17 7 -38
Lgate 1 9 0.518e-9
Ldrain 2 5 0.1e-9 
Lsource 3 7 0.182e-9
RLgate 1 9 5.18
RLdrain 2 5 1
RLsource 3 7 1.82
Rgate 9 6 6.1
It 7 17 1
Rbreak 17 7 RbreakMOD 1
.MODEL RbreakMOD RES (TC1=0.67e-3 TC2=-0.2e-6)
.MODEL DbodyMOD D (IS=1.25e-12 n=1 RS=16.5e-3 TRS1=2.5e-3 TRS2=0.5e-6
+ CJO=0.18e-9 M=0.37 TT=10e-9 XTI=1)
.MODEL DbreakMOD D (RS=8e-2 TRS1=90e-3 TRS2=0)
Rdrain 5 16 RdrainMOD 29.5e-3 
.MODEL RdrainMOD RES (TC1=5.5e-3 TC2=11e-6)
M_BSIM3 16 6 7 7 M_MOD W=0.8107 L=1.35e-6 NRS=1 NRD=0) 
.MODEL  M_MOD PMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0)
***Process Parameters
+ TOX=500e-10 ;Oxide thickness
+ XJ=0.91e-6 ;Channel depth 
+ NCH=1.1e17 ;Channel concentration
***Channel Current
+ U0=250 vsat=8e5 drout=1.8
+ DELTA=0.8 PSCBE2=1e-5 RSH=3.98e-3
***Threshold voltage
+ VTH0=-1.8
***Sub-threshold characteristics
+ VOFF=-0.15 NFACTOR=1.5
***Junction diodes and Capacitance
+ LINT=0.355e-6 DLC=0.355e-6 
+ CGSO=250e-12 CGSL=0p CGDO=52e-12 CGDL=260e-12 
+ CJ=0 CF=0p CKAPPA=2
*** Temperature parameters
+ KT1=-1 KT2=0 UA1=0.98E-9
+ NJ=10) 
.ENDS 
*FDC365P(Rev.A) 11/6/07
*ST
*$
