*FDC6392S at Temp. Electrical Model 
*-------------------------------------------------------------------
.SUBCKT FDC6392S 20 10 30 50
*20=DRAIN 10=GATE 30=SOURCE 50=VTEMP
Rg 10 11x 1
Rdu 12x 1 1u
M1 2 1 4x 4x DMOS L=1u W=1u
.MODEL DMOS PMOS(VTO=-0.8 KP=5.4
+THETA=0.166667 VMAX=5E5 LEVEL=3)
Cgs 1 5x 360p
Rd 20 4 6E-3
Dds 4 5x DDS
.MODEL DDS D(M=4.1E-1 VJ=7.17E-1 CJO=123p)
Dbody 20 5x DBODY
.MODEL DBODY D(IS=1.21E-9 N=1.42541 RS=.00104 TT=9.2n)
Ra 4 2 6E-3
Rs 5x 5 0.5m
Ls 5 30 0.5n
M2 1 8 6 6 INTER
E2 8 6 4 1 2
.MODEL INTER PMOS(VTO=0 KP=10 LEVEL=1)
Cgdmax 7 4 387p
Rcgd 7 4 10meg
Dgd 4 6 DGD
Rdgd 4 6 10meg
.MODEL DGD D(M=3.3E-1 VJ=9.47E-3 CJO=387p)
M3 7 9 1 1 INTER
E3 9 1 4 1 -2
*ZX SECTION
EOUT 4x 6x poly(2) (1x,0) (3x,0) 0 0 0 0 1
FCOPY 0 3x VSENSE 1
RIN 1x 0 1G
VSENSE 6x 5x 0
RREF 3x 0 10m
*TEMP SECTION
ED 101 0 VALUE {V(50,100)}
VAMB 100 0 25
EKP 1x 0 101 0 .02
*VTO TEMP SECTION
EVTO 102 0 101 0 .0007
EVT 11x 12x 102 0 1
*DIODE THEMO BREAKDOWN SECTION
EBL VB1 VB2 101 0 .08
VBLK VB2 0 20
D DB1 20 DBLK
.MODEL DBLK D(IS=1E-14 CJO=.1p RS=.1)
EDB 0 DB1 VB1 0 1
.ENDS FDC6392S
*****************************************
* FDS6329S/TSBFA Shottky Diode
* ***************************************
.MODEL TSBFA-SCH  D  
+ IS = 1.81E-5
+ RS = 0.073
+ N = 1.177214
+ XTI = 2
+ EG = 0.5
+ BV = 20
+ IBV = 1.0E-03
*FDC6392S (Rev.B) 4/15/05
*ST

